US05468748
9-Hydroxy-9H-indeno[1,2-b]pyrazin-3(4H)-one
9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione (5.0 g, 25.23 mmol) was reduced with sodium borohydride (1.72 g, 45.5 mmol) as described in example 11. Yield 5.29 g (96%) of the title compound. M.p. 251°-253° C. 1H-NMR (DMSO-d6, δ): 5.32 (d, 1H), 5.92 (d, 1H), 7.47 (m, 2H), 7.64 (m, 1H), 7.8 (m, 1H), 7.9 (s, 1H), 12.5 (s, 1H).

reactant | 9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione | 25.23 mmol, 5.0 g | N=1C2=C(NC(C1)=O)C=1C=CC=CC1C2=O | C11H6N2O2
reactant | sodium borohydride | 45.5 mmol, 1.72 g | [BH4-].[Na+]
product | 9-Hydroxy-9H-indeno[1,2-b]pyrazin-3(4H)-one | Yield 5.29 g, 96% | OC1C=2C=CC=CC2C=2NC(C=NC21)=O | C11H8N2O2
